US05225425
N-[3-(Bromomethyl)phenyl]-4-(tetradecyloxy)benzamide
To a solution of N-[3-(hydroxymethyl)phenyl]-4-(tetradecyloxy)benzamide and 3.47 g of methanesulfonyl chloride in 200 ml of tetrahydrofuran is added 3.07 g of triethylamine followed by stirring at ambient temperature for 2 hours. Also added is 21.93 g of lithium bromide followed by stirring at ambient temperature for an additional 3 hours. The mixture is poured into water and extracted with ether. The organic layer is washed with a mixture of brine and saturated sodium bicarbonate then dried. The solvent is removed under vacuum and the residue crystallized from carbon tetrachloride:hexanes to give the desired product as a white solid, m.p. 116°-118° C.

reactant | N-[3-(hydroxymethyl)phenyl]-4-(tetradecyloxy)benzamide | OCC=1C=C(C=CC1)NC(C1=CC=C(C=C1)OCCCCCCCCCCCCCC)=O | C28H41NO3
reactant | methanesulfonyl chloride | 3.47 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 3.07 g | C(C)N(CC)CC | C6H15N
reactant | lithium bromide | 21.93 g | [Br-].[Li+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-[3-(Bromomethyl)phenyl]-4-(tetradecyloxy)benzamide | BrCC=1C=C(C=CC1)NC(C1=CC=C(C=C1)OCCCCCCCCCCCCCC)=O | C28H40BrNO2
